US08232319B2
(2R,5S)-2-[2-chloro-4-(3-trifluoromethylphenylthio)phenyl]ethyl-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine
(5S)-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine and 2-chloro-1-(2-iodoethyl)-4-(3-trifluoromethylphenylthio)benzene were reacted in the same manner as in Example 1 to obtain the target product as a colorless oil.

reactant | (5S)-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine | C(C)OC=1C(N=C([C@@H](N1)C(C)C)OCC)C | C12H22N2O2
reactant | 2-chloro-1-(2-iodoethyl)-4-(3-trifluoromethylphenylthio)benzene | ClC1=C(C=CC(=C1)SC1=CC(=CC=C1)C(F)(F)F)CCI | C15H11ClF3IS
product | (2R,5S)-2-[2-chloro-4-(3-trifluoromethylphenylthio)phenyl]ethyl-3,6-diethoxy-5-isopropyl-2-methyl-2,5-dihydropyrazine | ClC1=C(C=CC(=C1)SC1=CC(=CC=C1)C(F)(F)F)CC[C@]1(N=C([C@@H](N=C1OCC)C(C)C)OCC)C | C27H32ClF3N2O2S
